US07932246B2
N-Hydroxy 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide—Example 87
To N-(1-isobutoxyethoxy) 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide (0.199 g, 0.4 mmol) was added TFA:DCM:MeOH (8 ml, 1:2:2). The solution was stirred for 6 h and then concentrated under vacuum. The residue was suspended in MeOH and poured into EtOH (250 ml). The mixture was washed with 1:1 saturated sodium bicarbonate/1M NaOH (100 ml), and water (50 ml). The organic fraction was dried (Na2SO4), concentrated and purified by reverse phase HPLC to yield the title compound (9 mg, 5%). m/z 389.25 [M+H]+; 1H NMR (300 MHz, CD3OD) δ: 2.64 (2H, d, J=5.3 Hz), 2.90-3.07 (4H, m), 3.37-3.58 (4H, m), 3.89 (2H, s), 6.46 (1H, d, J=8.9 Hz), 7.33-7.44 (3H, m), 7.70-7.80 (5H, m), 8.37 (1H, d, J=2.2 Hz).

reactant | N-(1-isobutoxyethoxy) 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide | 0.4 mmol, 0.199 g | C(C(C)C)OC(C)ONC(=O)C=1C=CC=NC1N1CC2CN(CC2C1)CC1=CC2=CC=CC=C2C=C1 | C29H36N4O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 8 ml | CO | CH4O
product | N-Hydroxy 6-(5-naphthalen-2-ylmethyl-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)pyridine-5-carboxamide | 9 mg, 5% | ONC(=O)C=1C=CC=NC1N1CC2CN(CC2C1)CC1=CC2=CC=CC=C2C=C1 | C23H24N4O2
